US06197826B1
Synthesis of α-(2-Hydroxy-5-methoxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 1 using 2-hydroxy-5-methoxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 68.1 % yield as a crystalline solid, m.p. 70.4-71.6° C. (Rf=0.23 on a silica gel plate using 3:7 EtOAc/hexanes as an eluant).

reactant | 2-hydroxy-5-methoxybenzaldehyde | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(2-Hydroxy-5-methoxyphenyl)-N-tert-butylnitrone | OC1=C(C=C(C=C1)OC)C=[N+]([O-])C(C)(C)C | C12H17NO3
